US04935430
4-(2,4-dimethylimidazol-1-yl)benzonitrile
A mixture of 4-fluorobenzonitrile (3 g, 25 mmol), 2,4-dimethylimidazolium chloride (3 g, 25 mmol) and potassium carbonate (7.2 g, 52 mmol) in dimethylformamide (50 ml) was heated at 145° C. for 16 hours. Most of the solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and brine. The organic layer was driied (magnesium sulphate) and evaporated a yellow solid. Crystallization from hexane/ether afforded a pale-yellow solid (2.6 g, 57%).

reactant | 4-fluorobenzonitrile | 25 mmol, 3 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 2,4-dimethylimidazolium chloride | 25 mmol, 3 g | [Cl-].CC1=[NH+]C=C(N1)C
reactant | potassium carbonate | 52 mmol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(2,4-dimethylimidazol-1-yl)benzonitrile | 2.6 g, 57% | CC=1N(C=C(N1)C)C1=CC=C(C#N)C=C1 | C12H11N3
